US06924400B2
(g) 2-Benzoyloxymethyl-5-{[tert-butoxycarbonyl(6,2′-dimethyl-4′-propionylbiphenyl-3-yl)-amino]methyl}benzyl benzoate
900 mg (2.5 mmol) of tert-butyl(6,2′-dimethyl-4′-propionylbiphenyl-3-yl)carbamate are dissolved in 30 ml of dimethylformamide. 110 mg (2.8 mmol) of 60% sodium hydride are added and the medium is stirred for 15 minutes. 1.23 g (2.8 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide are then added and the medium is stirred for 12 hours at room temperature. After the usual work-up, the residue obtained is purified by chromatography on a column of silica (eluent: 8 heptane/2 ethyl acetate). A colorless oil is obtained (m=1 g, Y=55%).

reactant | tert-butyl(6,2′-dimethyl-4′-propionylbiphenyl-3-yl)carbamate | 2.5 mmol, 900 mg | C(C)(C)(C)OC(NC=1C=C(C(=CC1)C)C1=C(C=C(C=C1)C(CC)=O)C)=O | C22H27NO3
reactant | sodium hydride | 2.8 mmol, 110 mg | [H-].[Na+]
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 2.8 mmol, 1.23 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Benzoyloxymethyl-5-{[tert-butoxycarbonyl(6,2′-dimethyl-4′-propionylbiphenyl-3-yl)-amino]methyl}benzyl benzoate | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC(=C1)CN(C=1C=C(C(=CC1)C)C1=C(C=C(C=C1)C(CC)=O)C)C(=O)OC(C)(C)C)COC(C1=CC=CC=C1)=O | C45H45NO7
